US06025497
Hydrogen peroxide (0.77 g) was added to a mixture of 5-chloro-2-(4,4-difluorobut-3-enylthio)thiazole (1.94 g) and glacial acetic acid (21 g) at a temperature of 55-60° C. and the resultant mixture maintained at this temperature for 6 hours. After cooling the mixture to 5° C. and adding sufficient 47% sodium hydroxide solution to adjust the pH to 6 the mixture was diluted with water (20 ml) and extracted with chloroform (3×20 ml). The combined extracts were washed with water (20 ml), sodium bisulfite solution (20 ml), and water (20 ml) and dried over anhydrous magnesium sulfate. Removal of the solvent by evaporation under reduced pressure yielded 5-chloro-2-(4,4-difluorobut-3-enylsulfonyl)thiazole (1.95 g, 82%).

reactant | Hydrogen peroxide | 0.77 g | OO | H2O2
reactant | 5-chloro-2-(4,4-difluorobut-3-enylthio)thiazole | 1.94 g | ClC1=CN=C(S1)SCCC=C(F)F | C7H6ClF2NS2
reactant | acetic acid | 21 g | C(C)(=O)O | C2H4O2
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | 20 ml | O | H2O
product | 5-chloro-2-(4,4-difluorobut-3-enylsulfonyl)thiazole | 1.95 g, 82% | ClC1=CN=C(S1)S(=O)(=O)CCC=C(F)F | C7H6ClF2NO2S2
